US03992389
4-Benzamidopiperidine (62 g.) was added to a stirred suspension of 1.1 g. cupric acetate and 9.5 g. paraformaldehyde in 300 ml. dry dioxane, followed by propiolaldehyde diethylacetal (38.6 g.). Stirring was continued for 24 hours at 80° C under nitrogen. The hot reaction mixture was filtered and the filtrate was evaporated. Recrystallisation ofthe solid residue from ethyl acetate-petroleum ether (bp. 60°-80° C) gave 4-benzamido-1-(4,4-diethoxybut-2-ynyl)piperidine as colourless shining leaflets. (84.6 g.), m.p. 130° C. (Found: C, 69.5; H, 8.3; N, 8.3 C20H28N2O3 requires C, 69.7; H, 8.2; N, 8.1%).

reactant | 4-Benzamidopiperidine | 62 g | C(C1=CC=CC=C1)(=O)NC1CCNCC1 | C12H16N2O
reactant | paraformaldehyde | C=O | CH2O
reactant | propiolaldehyde diethylacetal | 38.6 g | C(C)OC(C#C)OCC | C7H12O2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-benzamido-1-(4,4-diethoxybut-2-ynyl)piperidine | C(C1=CC=CC=C1)(=O)NC1CCN(CC1)CC#CC(OCC)OCC | C20H28N2O3
